US07528129B2
25g) (R)-2-(3-bromo-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 24g from 5.40 g (7.98 mmol) (R)-2-[3-bromo-4-(2-trimethylsilanyl-ethoxy-methoxy)-phenyl]-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 7.7 mL (4.2 mmol) methanolic sulphuric acid (0.5 M). The crude product (5.44 g) was further reacted without purification.

reactant | (R)-2-[3-bromo-4-(2-trimethylsilanyl-ethoxy-methoxy)-phenyl]-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 7.98 mmol, 5.40 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)OCOCC[Si](C)(C)C)Br)C(=O)OC)C=CC=C2 | C31H42BrN3O7Si
reactant | sulphuric acid | 4.2 mmol, 0.5 M, 7.7 mL | S(O)(O)(=O)=O | H2O4S
product | (R)-2-(3-bromo-4-hydroxy-phenyl)-1-methoxycarbonyl-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)O)Br)C(=O)OC)C=CC=C2 | C25H28BrN3O6
